US07572809B2
Similar procedure as described in example 9B was used, starting from 6-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol and POCl3 to give (6-Bromo-1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS: m/e 337 (MH+).

reactant | 6-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol | BrC=1C=C2C=C(N=C(C2=CC1)O)NC1=NNC(=C1)C | C13H11BrN4O
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | (6-Bromo-1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | BrC=1C=C2C=C(N=C(C2=CC1)Cl)NC1=NNC(=C1)C | C13H10BrClN4
